US05578620
2-t-Butyldimethylsilyloxy-1(S)-methylethylamine
A procedure similar to that described in Preparation 9 was repeated, except that 10.22 g of benzyl N-[2-t-butyldimethylsilyloxy-1(S)-methylethyl]carbamate (prepared as described in Preparation 32), 2.00 g of 10% w/w palladium-on-carbon and 80 ml of ethanol were used, to give 5.69 g of the title compound having an Rf value of 0.27 (on silica gel thin layer chromatography, using a 1:3 by volume mixture of ethyl acetate and hexane as the developing solvent) and having [α]D =+9.7° (methanol, c=1.040).

reactant | benzyl N-[2-t-butyldimethylsilyloxy-1(S)-methylethyl]carbamate | 10.22 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C)NC(OCC1=CC=CC=C1)=O | C17H29NO3Si
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-t-Butyldimethylsilyloxy-1(S)-methylethylamine | 5.69 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C)N | C9H23NOSi
